US09029395B2
To a flask charged with 6-(((2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 5) (800 mg, 1.850 mmol), methyl 6-bromonicotinate (440 mg, 2.036 mmol), potassium carbonate (767 mg, 5.55 mmol) and tetrakis(triphenylphosphine)palladium(0) (214 mg, 0.185 mmol) were added toluene (8 mL) and ethanol (8 mL). The resulting mixture was stirred at 90° C. under nitrogen for 3 h at which point portions of potassium carbonate (384 mg) tetrakis(triphenylphosphine)palladium(0) (107 mg) and methyl 6-bromonicotinate (220 mg) were added and the reaction mixture stirring continued for 5 h. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was partitioned between EtOAc and water. The phases were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography [25 g column, EtOAc/Hexanes gradient] to give ethyl 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate (600 mg, 1.317 mmol, 71.2% yield) as a white foam. LCMS (HpH, 2 min), Rt=1.07 min, MH+=456.

reactant | 6-(((2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)NC1=NC=C(C#N)C=C1)C | C24H29BN4O3
reactant | methyl 6-bromonicotinate | 2.036 mmol, 440 mg | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 5.55 mmol, 767 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 384 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 6-bromonicotinate | 220 mg | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.185 mmol, 214 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | ethyl 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate | 1.317 mmol, 600 mg, 71.2% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)OCC)C=C1)NC1=NC=C(C=C1)C#N)C | C26H25N5O3
